US04136256
Preparation of β-phenethyl-4-(hexadecylamino)benzamide
To a chilled solution of 0.1 g. of 4-dimethylaminopyridine, 5.7 g. of β-phenethylamine and 13 ml. of triethylamine in 55 ml. of dimethoxyethane (glyme) at 10° C. was added 7.4 g. of 4-hexadecylaminobenzoyl chloride hydrochloride in 45 ml. of glyme. The reaction was allowed to warm to room temperature and then refluxed for 2.5 hours. An I.R. showed no acid chloride band at this time. The solution was cooled overnight and filtered giving 9.35 g. of an off-white material. This material was recrystallized from 400 ml. of 90% acetone (H2O) giving 4.45 g. and 0.76 g. in two crops (26%). An aliquot (0.5 g.) was recrystallized from 29 ml. of cyclohexane giving 0.44 g. melting point 125°-127° C.

reactant | β-phenethylamine | C1=CC=C(C=C1)CCN | C8H11N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-hexadecylaminobenzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | glyme | C(OC)COC | C4H10O2
product | β-phenethyl-4-(hexadecylamino)benzamide | C(CC1=CC=CC=C1)C(CNC1=CC=C(C(=O)N)C=C1)CCCCCCCCCCCCCC | C31H48N2O
